US04293328
Propionic anhydride (5 ml) is added to 3-amino-5-t-butylisoxazole (2.52 g), and the resultant mixture is stirred at room temperature for 3 hours and then allowed to stand at room temperature overnight. The reaction mixture is poured onto icy water (50 ml). The precipitated crystals are filtered and shaken with benzene. The benzene layer is washed with saturated aqueous sodium hydrogen carbonate and water, each twice, dried over anhydrous sodium sulfate and evaporated to remove the solvent. The residue is recrystallized from cyclohexane to give N-(5-t-butyl-3-isoxazolyl)propionamide (2.91 g) as colorless crystals melting at 95.0° to 96.0° C.

reactant | Propionic anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 3-amino-5-t-butylisoxazole | 2.52 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
solvent | water | 50 ml | O | H2O
product | N-(5-t-butyl-3-isoxazolyl)propionamide | 2.91 g | C(C)(C)(C)C1=CC(=NO1)NC(CC)=O | C10H16N2O2
